US06514989B1
c) 8-Methoxy-[1,2,4]triazolo [1,5-a]pyridin-2-yl-amine
To a solution of 21.8 g (313.7 mmol) hydroxylamine hydrochloride and 32.2 ml (188.2 mmol) N-ethyldiisopropylamine in a mixture of 130 ml methanol ethanol 1:1 was added 16 g (62.7 mmol) N-(3-methoxy-2-pyridinyl)-N′-carboethoxy-thiourea and stirred for 2 h at room temperature and subsequently for 3 h at 60° C. The volatiles were removed under reduced pressure and the residue was triturated with 100 ml water. The collected precipitate was washed with 25 ml methanol/diethyl ether 4:1 and afterwards with 25 ml diethyl ether. After drying under high vacuum 8 g (78%, 48.7 mmol) of the title compound was collected as off-white crystals.

reactant | hydroxylamine hydrochloride | 313.7 mmol, 21.8 g | Cl.NO
reactant | N-ethyldiisopropylamine | 188.2 mmol, 32.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-methoxy-2-pyridinyl)-N′-carboethoxy-thiourea | 62.7 mmol, 16 g | COC=1C(=NC=CC1)NC(=S)NC(=O)OCC | C10H13N3O3S
solvent | methanol ethanol | 130 ml | C(C)O.CO
product | 8-Methoxy-[1,2,4]triazolo [1,5-a]pyridin-2-yl-amine | 48.7 mmol, 8 g, 78% | COC=1C=2N(C=CC1)N=C(N2)N | C7H8N4O
